US09358231B2
C. 4-chloro-N-(5-(4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamido)-2-methylphenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxamide
To a solution of 4-chloro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (50 mg, 0.14 mmol) in DMF(1 mL) were added HATU (162 mg, 0.43 mmol), DIEA (0.12 mL, 0.71 mmol) and N-(3-amino-4-methylphenyl)-4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide (60 mg, 0.14 mmol). The reaction mixture was stirred for overnight at room temperature after which, it was poured to water and the produced solid was filtered. The crude solid was dried with nitrogen gas flow. The title compound (85 mg, 0.11 mmol) was used next reaction without further purification. MS m/z: 753 [M+1].

reactant | 4-chloro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 0.14 mmol, 50 mg | ClC1=C2C(=NC=C1C(=O)O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C15H11ClN2O4S
reactant | HATU | 0.43 mmol, 162 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.71 mmol, 0.12 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(3-amino-4-methylphenyl)-4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide | 0.14 mmol, 60 mg | NC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)CN1CCN(CC1)CC)C(F)(F)F)=O | C22H27F3N4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-chloro-N-(5-(4-((4-ethylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamido)-2-methylphenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxamide | 0.11 mmol, 85 mg | ClC1=C2C(=NC=C1C(=O)NC1=C(C=CC(=C1)NC(C1=CC(=C(C=C1)CN1CCN(CC1)CC)C(F)(F)F)=O)C)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C37H36ClF3N6O4S
